US04616086
4-{2-[1-(2-Chlorobenzyl)-piperazin-4-yl]-ethyl}-benzoic acid amide
To a solution of 14.2 g. (31.5 mmole) 4-{2-[1-(2-chlorobenzyl)-piperazin-4-yl]-ethyl}-benzoyl chloride dihydrochloride and 150 ml. dioxan, there is added dropwise, while stirring at ambient temperature, within the course of 30 minutes, a solution of 100 ml. concentrated aqueous ammonia in 50 ml. dioxan. The reaction mixture is stirred for a further 30 minutes and then sufficient water is added thereto to precipitate out the desired amide. After suction filtration, drying and recrystallisation from toluene, there are obtained 8.5 g. (75% of theory) of amide; m.p. 170°-173° C.

reactant | 4-{2-[1-(2-chlorobenzyl)-piperazin-4-yl]-ethyl}-benzoyl chloride dihydrochloride | 31.5 mmole | Cl.Cl.ClC1=C(CN2CCN(CC2)CCC2=CC=C(C(=O)Cl)C=C2)C=CC=C1
reactant | dioxan | O1CCOCC1 | C4H8O2
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | 4-{2-[1-(2-Chlorobenzyl)-piperazin-4-yl]-ethyl}-benzoic acid amide | ClC1=C(CN2CCN(CC2)CCC2=CC=C(C(=O)N)C=C2)C=CC=C1 | C20H24ClN3O
